US07960552B2
To a solution of [5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol (0.12 g, 0.36 mmol), methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate (0.10 g, 0.36 mmol) and triphenylphosphine (0.10 mg, 0.39 mmol) in dichloromethane (2.5 mL) was added diisopropyl azodicarboxylate (0.071 mL, 0.39 mmol) dropwise. The solution was heated in a microwave reactor to 90° C. for 10 minutes and the allowed to sit overnight. The solution was adsorbed onto silica gel and purified by chromatography (silica gel, 0-45% ethyl acetate in hexanes gradient elution) to afford methyl 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (71 mg, 35%). 1H-NMR (400 MHz, DMSO-d6) δ 8.55 (d, J=9 Hz, 1H), 8.28 (s, 1H), 8.16-8.10 (m, 3H), 7.73 (d, J=9 Hz, 2H), 7.62-7.51 (m, 3H), 6.92 (d, J=9 Hz, 2H), 4.84 (s, 2H), 4.05-3.97 (m, 1H), 3.93 (s, 3H), 2.43-2.31 (m, 4H), 2.14-2.02 (m, 1H), 1.97-1.89 (m, 1H). LRMS (APCI) m/z 559 (M+H)+.

reactant | [5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol | 0.36 mmol, 0.12 g | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C14H13Cl2NO2
reactant | methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate | 0.36 mmol, 0.10 g | OC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC | C17H13NO3
reactant | triphenylphosphine | 0.39 mmol, 0.10 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.39 mmol, 0.071 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | methyl 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 71 mg, 35% | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC | C31H24Cl2N2O4
